US09446130B2
To a solution of methyl 4-(3-(4-cyano-1-methoxy-1-oxobutan-2-yl)-8-((2,4-dimethoxybenzyl)amino)imidazo[1,5-a]pyrazin-1-yl)benzoate (12 g, 22.1 mmol) in EtOH (350 mL) was added Ra—Ni (24 g) under N2. The suspension was degassed under vacuum and purged with H2 several times. The mixture was stirred under H2 (50 psi) at 75° C. for 7 hours. The reaction was complete detected by LCMS. The suspension was filtered through a pad of Celite and the pad was washed with EtOH (20 mL×3). The combined filtrates were concentrated. The residue was purified by column chromatography on silica gel eluted with DCM:MeOH=30:1 to give methyl 4-(8-((2,4-dimethoxybenzyl)amino)-3-(2-oxopiperidin-3-yl)imidazo[1,5-a]pyrazin-1-yl)benzoate (4.6 g, yield 40%).

reactant | methyl 4-(3-(4-cyano-1-methoxy-1-oxobutan-2-yl)-8-((2,4-dimethoxybenzyl)amino)imidazo[1,5-a]pyrazin-1-yl)benzoate | 22.1 mmol, 12 g | C(#N)CCC(C(=O)OC)C1=NC(=C2N1C=CN=C2NCC2=C(C=C(C=C2)OC)OC)C2=CC=C(C(=O)OC)C=C2 | C29H29N5O6
reactant | MeOH | CO | CH4O
solvent | EtOH | 350 mL | CCO | C2H6O
catalyst | Ra—Ni | 24 g | [Ni] | Ni
product | methyl 4-(8-((2,4-dimethoxybenzyl)amino)-3-(2-oxopiperidin-3-yl)imidazo[1,5-a]pyrazin-1-yl)benzoate | 4.6 g, yield 40% | COC1=C(CNC=2C=3N(C=CN2)C(=NC3C3=CC=C(C(=O)OC)C=C3)C3C(NCCC3)=O)C=CC(=C1)OC | C28H29N5O5
